US04490369
1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{4-amino-3-bromo-5-cyano-phenyl}-ethyl)-amino]-propane
This compound was prepared analogous to Example 5(b) from 1-[7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-chloro-propane and 2-(4-amino-3-bromo-5-cyano-phenyl)-N-methyl-ethylamine.

reactant | 1-[7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-chloro-propane | COC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1OC | C15H20ClNO3
reactant | 2-(4-amino-3-bromo-5-cyano-phenyl)-N-methyl-ethylamine | NC1=C(C=C(C=C1C#N)CCNC)Br | C10H12BrN3
product | 1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{4-amino-3-bromo-5-cyano-phenyl}-ethyl)-amino]-propane | COC1=CC2=C(CC(N(CC2)CCCN(CCC2=CC(=C(C(=C2)C#N)N)Br)C)=O)C=C1OC | C25H31BrN4O3
